Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Codeine Phos
 
Attending: ___.
 
Chief Complaint:
cc: wheezing
 
Major ___ or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ year old male with history of severe dementia, 
nonverbal and bedbound at baseline who was sent from ___ 
___ for respiratory distress. Per the patients son, the 
patient had 2 days of diarrhea, starting on ___. He then was 
noted to have weezing the day prior to admission which responed 
to nebulizers. He had persistent wheezing and was therefore sent 
to the ED for evaluation. The patient's son ___ he has not 
had a fever. He has had a cough, which is non productive. He 
eats and drinks well, with assistance and there have been no 
overt signs of aspiration. 

In the ED, inital vitals:
95.9 HR: 96 R: 22 BP: 126/59 O2: 97% on 4L
He was given cefepime, zosyn and vancomycin for possible HCAP 
and admitted. 

He is currently laying in bed breathing comfortably. Can not 
answer questions as is nonverbal at baseline. 
 
Past Medical History:
CADASIL-  cerebral autosomal dominant arteriopathy with 
subcortical infarcts and leukoencephalopathy  leading to severe 
dementia 
HTN  
"Chest pain syndrome"  
Dementia  
Migraines  
BPH  
GIB 
s/p ccy, s/p hemorrhoidectomy  

 
Social History:
___
Family History:
Family History: mother- deceased, colon cancer. father - heart  
disease. brother - deceased at ___, MI.  
 
Physical Exam:
Elderly man laying in bed in NAD. Does not respond to commands.
Vitals:  T: 98.7 BP: 154/85 HR: 80 HR: 22 O2: 96%2L
HEENT: MMM, Eyes closed, resists opening. 
Neck: NO JVD, NO LAD
Lungs: poor air entry, poor effort. No wheezes or ronchi 
appreciated
___: RRR S1. S2 present. No murmurs/rubs/gallops
Abd: Soft, NT, ND + RUQ and RLQ scars. +BS
EXT: No edema. 
Skin: No rashes, no skin breakdown.

Exam on Discharge:
T: 98.3 BP: 135/78 HR:75 R: 20 O2: 95% 2L
HEENT: Laying in bed in NAD. Smiles to voice
Neck: NO JVD, NO LAD
Lungs: poor air entry, poor effort. No wheezes or ronchi 
appreciated
___: RRR S1. S2 present. No murmurs/rubs/gallops
Abd: Soft, NT, ND + RUQ and RLQ scars. +BS
EXT: No edema. 
Skin: No rashes, no skin breakdown.

 
Pertinent Results:
___ 02:20AM   ___ PTT-36.2 ___
___ 02:20AM   PLT COUNT-240
___ 02:20AM   NEUTS-81.2* LYMPHS-11.7* MONOS-5.4 EOS-1.3 
BASOS-0.4
___ 02:20AM   WBC-10.7# RBC-5.07# HGB-15.9# HCT-48.5# 
MCV-96# MCH-31.3# MCHC-32.7 RDW-12.6
___ 02:20AM   LACTATE-3.2*
___ 02:20AM   COMMENTS-GREEN TOP
___ 02:20AM   ALBUMIN-4.6
___ 02:20AM   cTropnT-<0.01 proBNP-324
___ 02:20AM   LIPASE-22
___ 02:20AM   ALT(SGPT)-16 AST(SGOT)-16 ALK PHOS-103 TOT 
BILI-0.9
___ 02:20AM   GLUCOSE-116* UREA N-9 CREAT-0.9 SODIUM-143 
POTASSIUM-3.7 CHLORIDE-109* TOTAL CO2-21* ANION GAP-17
___ 04:40AM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:40AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:40AM URINE  UHOLD-HOLD
___ 04:40AM URINE  HOURS-RANDOM

CXR:
___
IMPRESSION: 
1. Mild pulmonary edema 
2. Large hiatal hernia 

CXR: ___
The lung volumes are low and there is some peristent 
opacification of both 
lungs consistent consistent with pulmonary edema, which is 
improving. There are few, small opacities in the left lower lobe 
that most likely represent atelectasis. There is no evidence of 
lobar pneumonia.  The heart is enlarged  and the hilar contours 
are grossly normal.  There is no pneumothorax and no effusion.   

  
IMPRESSION: 
  
Improving pulmonary edema. No evidence of pneumonia.   

EKG:
NSR 88 BPM, RBBB

 
Brief Hospital Course:
This is an ___ y/o m with history of severe dementia who 
presented from ___ with respiratory distress

# Dyspnea
#?Pneumonia
CXR without clear iniflitrate, but does have elevated WBC count 
and cough. Repeat CXR did not show clear infiltrate but given 
concern for pneumonia will be treated with Augmentin x 7 days. 
The patient was seen by speech and swallow who recommended a 
modified diet of nectar thickened liquids please please give 
meds crushed- small meds may be given whole. The patient may 
benefit from further evaluation of his swallowing.

#Apnea/Stridor
While hospitalized, the patient was noted to have episodes of 
stridor/apnea where he would occsionally desaturate but quickly 
recover. He was evaulated by both sleep and by ENT. ENT did not 
see an anatomic cause for stridor. They suggested stridor may be 
due to laryngospasm due to reflux. His PPI was therefore 
increased to BID. Sleep recommended possibly starting CPAP trial 
given history of sleep apnea, but given severe dementia, this 
was not started in house. The patient may benefit from a sleep 
study as an outpatient, which may not be feasable. An acceptable 
substition would be to use nocturnal oxygen.

# Dementia
History of severe dementia, dependent for all ADLs. Namenda was 
continued while hospitalized.

# BPH
Continued Flomax/finesteride

#?CAD/Chest pain syndrome
Imdur was changed to isosorbide dinitrate as this can be 
crushed.

#GERD
Omeprazole was changed to discentegrating lansoprazole.

# CODE:  DNR
# CONTACT:  Son ___: ___

___ issues:
- Consider sleep study, although this may be difficult given 
dementia can use supplemental O2 at night
- ___ benefit from additonal swallowing evaulation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate 30 mg PO DAILY 
2. Memantine 10 mg PO BID 
3. Finasteride 5 mg PO DAILY 
4. Acetaminophen 650 mg PO BID:PRN pain, temp >101 
5. Omeprazole 20 mg PO DAILY 
6. Acetaminophen 650 mg PO BID 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Wheezing 
8. Loratadine 10 mg PO DAILY:PRN nasal congestion 
9. Tamsulosin 0.8 mg PO HS 
10. sodium fluoride 10 ML oral QHS 
11. Senna 1 TAB PO HS 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Wheezing 
2. Finasteride 5 mg PO DAILY 
Ok to give whole 
3. Loratadine 10 mg PO DAILY:PRN nasal congestion 
4. Memantine 10 mg PO BID 
5. Senna 1 TAB PO HS 
6. Tamsulosin 0.8 mg PO HS 
Ok to give whole 
7. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Last day ___ 
8. Docusate Sodium 100 mg PO BID 
9. Isosorbide Dinitrate 10 mg PO TID 
10. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
11. Acetaminophen 650 mg PO BID 
12. sodium fluoride 10 ML oral QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia
Sleep apnea

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with shortness of breath and 
respiratory difficulty. You had a chest xray which did not show 
increased fluid or a clear pneumonia. You were started on 
antibioitcs which you should continue for a possible pneumonia. 
You were also seen by both the sleep doctors and by ___. On 
evaulation, ENT did not find evidence of obstructive anatomy. 
You may have laryngospasm caused by reflux therefore your reflux 
medication was increased.
You should have an outpatient sleep study, if possible. 
 
Followup Instructions:
___